US06136837
To 0.23 g (1 mmol) of 5-(2-formyl-α-methoxybenzyl)-3-methylisoxazole in 2 ml of methanol was added 0.22 g (1.1 mmol) of 4'-(trifluoromethyl)acetophenone hydrazone and stirred at room temperature for 3 hours. After completion of the reaction, methanol was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 5-[α-methoxy-2-{4-(4-trifluoromethylphenyl)-2,3-diaza-1,3-pentadienyl}benzyl]-3-methylisoxazole (0.23 g, 55.4%) as oil.

reactant | 5-(2-formyl-α-methoxybenzyl)-3-methylisoxazole | 1 mmol, 0.23 g | C(=O)C1=C(C(OC)C2=CC(=NO2)C)C=CC=C1 | C13H13NO3
reactant | 4'-(trifluoromethyl)acetophenone hydrazone | 1.1 mmol, 0.22 g | FC(C1=CC=C(C=C1)C(C)=NN)(F)F | C9H9F3N2
solvent | methanol | 2 ml | CO | CH4O
product | 5-[α-methoxy-2-{4-(4-trifluoromethylphenyl)-2,3-diaza-1,3-pentadienyl}benzyl]-3-methylisoxazole | 0.23 g, 55.4% | COC(C1=C(C=CC=C1)C=NN=C(C)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NO1)C | C22H20F3N3O2
